US04395409
7-Chloro-5-phenyl-2-phenylcarbamoyloxyamino-3H-1,4-benzodiazepine
7.5 g of 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione are suspended in 125 ml of dioxane and 50 ml of dimethylformamide and 2.2 g of sodium bicarbonate and 1.8 g of hydroxylammonium chloride are added to the suspension. After stirring for 8 hours at room temperature (monitoring by thin layer chromatography), the mixture is filtered off under suction and 2.8 ml of phenylisocyanate are added to the filtrate. After stirring for 30 minutes, the reaction mixture is added dropwise into 200 ml of water and the mixture is filtered off under suction. Recrystallization from ethanol/dimethylformamide yields colorless crystals of melting point 215°-217° C. Yield 4.6 g.

reactant | 7-chloro-1,3-dihydro-5-phenyl-2H-1,4-benzodiazepine-2-thione | 7.5 g | ClC=1C=CC2=C(C(=NCC(N2)=S)C2=CC=CC=C2)C1 | C15H11ClN2S
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | sodium bicarbonate | 2.2 g | C([O-])(O)=O.[Na+]
reactant | hydroxylammonium chloride | 1.8 g | [Cl-].O[NH3+]
solvent | dioxane | 125 ml | O1CCOCC1 | C4H8O2
product | 7-Chloro-5-phenyl-2-phenylcarbamoyloxyamino-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NOC(NC2=CC=CC=C2)=O)C2=CC=CC=C2)C1 | C22H17ClN4O2
